US07166746B2
Oxalyl chloride (4.3 g, 33 mmol) is added to a solution of (4-chlorophenyl-prop-2-ynyloxy-acetic acid (6.8 g, 30 mmol) in a mixture of 150 ml of dichloromethane and few drops of N,N-dimethylformamide. The reaction mixture is stirred for 4 hours at room temperature and then added to a solution of 4′-(tert-butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-ylamine (13.8 g, 30 mmol) and triethylamine (4.6 g, 45 mmol) in 150 ml of dichloromethane. The resulting mixture is stirred for 16 hours at room temperature under a nitrogen atmosphere. Subsequently, the mixture is diluted with chloroform and extracted with water. The combined organic layer is dried over sodium sulfate and evaporated and the remaining crude product is subjected to flash-chromatography (ethyl acetate/hexane 3;7) yielding N-[4′-(tert-butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-yl]-2-(4-chlorophenyl)-2-prop-2-ynyloxy-acetamide as an orange oil.

reactant | Oxalyl chloride | 33 mmol, 4.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chlorophenyl-prop-2-ynyloxy-acetic acid | 30 mmol, 6.8 g | ClC1=CC=C(C=C1)C(C(=O)O)OCC#C | C11H9ClO3
reactant | 4′-(tert-butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-ylamine | 30 mmol, 13.8 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C1=C(C=CC=C1)N)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31NO2Si
reactant | triethylamine | 45 mmol, 4.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[4′-(tert-butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-yl]-2-(4-chlorophenyl)-2-prop-2-ynyloxy-acetamide | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C1=C(C=CC=C1)NC(C(OCC#C)C1=CC=C(C=C1)Cl)=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H38ClNO4Si
